US05350696
2-Acetyl-6-cyanopyridine (3a, 3b, 3c, 3d, 3e)
To a solution of 2-acetylpyridine-N-oxide (0.098 mol) in 200 ml of methylene chloride was added dimethylcarbamyl chloride (0.1 mol) and the reaction mixture was allowed to react at room temperature under nitrogen for 24 hours. Additional dimethylcarbamyl chloride (0.1 mol) was added followed by cyanotrimethylsilane (0.22 mol), and the resulting mixture was allowed to react at 20° C. for 2 days. An additional 4 ml (0.03 mol) of cyanotrimethylsilane was then added, and the mixture was stirred at room temperature for another 24 hours. A solution of 200 ml of 10% K2CO3 was added to the reaction mixture and the resulting mixture was stirred for 45 minutes. The aqueous layer was extracted with 100 ml methylene chloride twice, the organic layers were combined and dried (K2CO3). After stripping the solvent, 16.9 g of crude product was isolated. The crude product obtained was chromatographed over Florisil® to isolate the desired products and the by-products with elution by the series of solvents: 2-acetyl-6-cyanopyridine (3a) (2 g, 50% CH2Cl2 /hexane), 2-cyano-6-(1-cyano-1-trimethysilyloxy)ethylpyridine (3b) (0.81 g, CH2Cl2), 2-cyano-6-(1-cyano-1-dimethylcarbamoyloxy)ethylpyridine (3c) (1.67 g, 25:72 EtOAc/CH2Cl2), 2-(1-cyano-1-hydroxy)ethylpyridine (3d) (0.42 g, 50:50 EtOAc/CH2Cl2), and 2-(1-cyano-1-dimethylcarbamoyloxy)ethylpyridine-1-N-oxide ( 3e) (1.8 g, EtOAc). The products exhibited the following properties.

reactant | 2-acetylpyridine-N-oxide | 0.098 mol | C(C)(=O)C1=[N+](C=CC=C1)[O-] | C7H7NO2
reactant | dimethylcarbamyl chloride | 0.1 mol | CN(C(=O)Cl)C | C3H6ClNO
reactant | dimethylcarbamyl chloride | 0.1 mol | CN(C(=O)Cl)C | C3H6ClNO
reactant | cyanotrimethylsilane | 0.22 mol | C(#N)[Si](C)(C)C | C4H9NSi
reactant | cyanotrimethylsilane | 0.03 mol, 4 ml | C(#N)[Si](C)(C)C | C4H9NSi
reactant | K2CO3 | 200 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetyl-6-cyanopyridine | C(C)(=O)C1=NC(=CC=C1)C#N | C8H6N2O
